US04743290
4-Propylthio-3-(N-(1,1-dimethylethyl)aminosulfonyl)-2-thiophenecarboxylic acid
A solution of 12.15 g 4-propylthio-3-N-(1,1-dimethylethyl)-3-thiophenesulfonamide in 150 mL THF was cooled to -30° C. and treated dropwise with 31.6 mL 2.69M n-butyllithium in hexane. The solution was warmed to 20° C. for 1.5 hours and then cooled to -80° C. 8.8 g Solid carbon dioxide was added in one portion, the mixture was warmed to 20° C. and poured over ice and hydrochloric acid. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried and concentrated to a solid. The product was purified by recrystallization from butyl chloride to give 10.4 g of light yellow solid; m.p. 123°-126° C.

reactant | 4-propylthio-3-N-(1,1-dimethylethyl)-3-thiophenesulfonamide | 12.15 g | C(CC)SC=1C(=CSC1)S(=O)(=O)NC(C)(C)C | C11H19NO2S3
reactant | n-butyllithium | 2.69M, 31.6 mL | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-Propylthio-3-(N-(1,1-dimethylethyl)aminosulfonyl)-2-thiophenecarboxylic acid | 10.4 g | C(CC)SC=1C(=C(SC1)C(=O)O)S(=O)(=O)NC(C)(C)C | C12H19NO4S3
